US09126998B2
rac-tert-Butyl (2-amino-3,3,3-trifluoro-2-methylpropyl)carbamate
Under argon, 39 g (107.6 mmol) of tert-butyl {3,3,3-trifluoro-2-[(2-hydroxy-1-phenylethyl)amino]-2-methyl-propyl}carbamate Example 244A were initially charged in ethanol (700 ml), and 5.44 g (53.8 mmol) of palladium(II) hydroxide (20% on activated carbon, moistened with water about 60%) were added. The reaction mixture was hydrogenated at atmospheric pressure for 16 h. The mixture was then filtered through silica gel and concentrated. The residue was purified by silica gel chromatography (cyclohexane/ethyl acetate gradient: from 9/1 to 6/4). This gave 15.8 g (61% of theory) of the target compound.

reactant | tert-butyl {3,3,3-trifluoro-2-[(2-hydroxy-1-phenylethyl)amino]-2-methyl-propyl}carbamate | 107.6 mmol, 39 g | FC(C(CNC(OC(C)(C)C)=O)(C)NC(CO)C1=CC=CC=C1)(F)F | C17H25F3N2O3
solvent | ethanol | 700 ml | C(C)O | C2H6O
catalyst | palladium(II) hydroxide | 53.8 mmol, 5.44 g | [OH-].[Pd+2].[OH-]
product | rac-tert-Butyl (2-amino-3,3,3-trifluoro-2-methylpropyl)carbamate | NC(CNC(OC(C)(C)C)=O)(C(F)(F)F)C | C9H17F3N2O2
